US07790770B2
A 2 L round bottom flask equipped with a mechanical stirrer, a N2 inlet, a condenser and a temperature controller, was charged 4-fluoro-3-hydroxy-N-methoxy-N-methylbenzamide (99.6 g, 0.5 mol), isopropyl iodide (110.5 g, 0.65 mol) and Cs2CO3 (195.5 g) and DMF (300 mL). The reaction mixture was heated at 50° C. for 3 h. Isopropyl iodide (17.0 g, 0.1 mol) was added and the reaction was heated at 50° C. for 12 h. The reaction mixture was allowed to cool to rt and water (1 L) and CH2Cl2 (500 mL) were added. The reaction mixture was stirred at rt for 0.5 h, and the organic phase was separated. The aqueous layer was extracted with CH2Cl2 (3×500 mL). The combined organic extracts were washed with water (2×1 L), brine (1 L), dried over MgSO4, filtered and concentrated in vacuo at 40° C. for 18 h to give 4-fluoro-3-isopropoxy-N-methoxy-N-methlbenzamide as an off-white solid (120.0 g, 100%).

reactant | 4-fluoro-3-hydroxy-N-methoxy-N-methylbenzamide | 0.5 mol, 99.6 g | FC1=C(C=C(C(=O)N(C)OC)C=C1)O | C9H10FNO3
reactant | isopropyl iodide | 0.65 mol, 110.5 g | C(C)(C)I | C3H7I
reactant | Cs2CO3 | 195.5 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DMF | 300 mL | CN(C)C=O | C3H7NO
reactant | Isopropyl iodide | 0.1 mol, 17.0 g | C(C)(C)I | C3H7I
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
solvent | water | 1 L | O | H2O
product | 4-fluoro-3-isopropoxy-N-methoxy-N-methlbenzamide | 120.0 g, 100% | FC1=C(C=C(C(=O)N(C)OC)C=C1)OC(C)C | C12H16FNO3
